US05908863
6 g of ethyl 2-(2-ethoxyethyl)oxymalonate (24.65 mmoles) are added to a solution of sodium ethoxide in EtOH (15 ml, prepared by dissolution of 0.65 g, 0.028 moles metal Na) under stirring and nitrogen atmosphere. Stirring is continued for 1 h at room temperature, then a solution of 3-trityloxy-1-propyl-bromide (9.4 g, 24.7 mmoles) in EtOH (20 ml) is added dropwise. The reaction mixture is heated at 50° C. and kept at this temperature overnight. When the reaction is completed, the solvent is evaporated off under vacuum and the residue is partitioned between water and AcOEt. The aqueous phase is re-extracted with AcOEt (2×50 ml), the combined organic phases are washed to neutrality with a 5% NaH2PO4 aqueous solution, then with water, and finally dried over sodium sulfate. After evaporation of solvent, the resulting solution of crude ethyl 5-trityloxy-2-ethoxycarbonyl-2-[(2-ethoxy)ethyloxy]-pentanoate in EtOH is treated with 0.3 g of p-toluenesulfonic.H2O acid and kept for 12 h at room temperature. After evaporation of solvent, the residue is dissolved in dichloromethane (15 ml) and the organic phase is washed with 2×5 of 5% aqueous NaHCO3, then with water to neutrality, dried over Na2SO4, the solvent is evaporated off and the residue is purified on a silica gel column (eluent CHCl3 /MeOH 98:1.5), to obtain 6.42 g of ethyl 5-hydroxy-2-[(2-ethoxy)ethyloxy]-2-ethoxycarbonyl-pentanoate.

reactant | ethyl 2-(2-ethoxyethyl)oxymalonate | 24.65 mmoles, 6 g | C(C)OCCOC(C(=O)OCC)C(=O)[O-]
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 3-trityloxy-1-propyl-bromide | 24.7 mmoles, 9.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCCCBr | C22H21BrO
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | EtOH | 0.028 moles, 15 ml, 0.65 g | CCO | C2H6O
product | ethyl 5-hydroxy-2-[(2-ethoxy)ethyloxy]-2-ethoxycarbonyl-pentanoate | 6.42 g | OCCCC(C(=O)OCC)(C(=O)OCC)OCCOCC | C14H26O7
